US06300496B1
5.28 Grams (45 mmols) of 6-hydroxyhexanal was charged to a 100 milliliter Schlenk flask and dissolved in 10 milliliters of deionized water by heating to 85-95° C. in a water bath. The resulting solution was charged to the Parr autoclave containing 35 milliliters of NH4OH. The reactor was placed under 400 psi air, heated to 80° C. and a 500 psi air purge was established. Reaction was allowed to proceed for 3 hours. At that time, reaction conversion was virtually complete and 6-hydroxycaproamide was formed in 35% yield.

reactant | 6-hydroxyhexanal | 45 mmols | OCCCCCC=O | C6H12O2
reactant | NH4OH | 35 milliliters | [NH4+].[OH-]
solvent | water | 10 milliliters | O | H2O
product | 6-hydroxycaproamide | 35% yield | OCCCCCC(=O)N | C6H13NO2
